US07345050B2
2-[4-(4-Methylbenzoyl)anilino)-4-(imidazo-[1,2-a]-pyridin-3-yl)pyrimidine
The title compound was prepared from 2-amino-4-(imidazo[1,2-a]pyridin-3-yl)pyrimidine and 4-bromo4′-methylbenzophenone following the general method of Example 2. The crude product was purified by column chromatography on silica gel using chloroform/ethanol, 98:2, as the eluent affording 52 mg (17% yield) of the title compound as a yellow solid: mp 238.9-239.2° C.; 1H NMR (400 MHz, DMSO-d6) δ 10.15-10.13 (m, 2 H), 8.64 (s, 1 H), 8.50 (d, J=5.3 Hz, 1 H), 7.96 (d, J=8.5 Hz, 2 H), 7.79-7.74 (m, 3 H), 7.63 (d, J=7.8 Hz, 2 H), 7.53-7.49 (m, 2 H), 7.35 (d, J=7.7 Hz, 2 H), 7.16 (t, J=6.8 Hz, 1 H), 2.40 (s, 3 H); 13C NMR (400 MHz, DMSO-d6) δ 194.4, 159.4, 157.7, 157.4, 148.4, 145.1, 142.7, 139.4, 135.5, 131.5, 130.1, 129.9, 129.8, 129.3, 127.5, 121.3, 118.2, 117.8, 114.2, 108.6, 21.5; MS (TSP) m/z 406 (M+1).

reactant | 2-amino-4-(imidazo[1,2-a]pyridin-3-yl)pyrimidine | NC1=NC=CC(=N1)C1=CN=C2N1C=CC=C2 | C11H9N5
reactant | 4-bromo4′-methylbenzophenone | BrC1=CC=C(C(=O)C2=CC=C(C=C2)C)C=C1 | C14H11BrO
product | 2-[4-(4-Methylbenzoyl)anilino)-4-(imidazo-[1,2-a]-pyridin-3-yl)pyrimidine | 52 mg, 17% yield | CC1=CC=C(C(=O)C2=CC=C(NC3=NC=CC(=N3)C3=CN=C4N3C=CC=C4)C=C2)C=C1 | C25H19N5O
